US08071592B2
6-({[((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one Dihydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone (146 mg, 0.460 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (for a synthesis, see WO2004058144, Example 7(d)) (98 mg, 0.506 mmol) were combined in anhydrous DCM (5 ml) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (306 mg, 1.38 mmol) was added and stirred for 1 h. The reaction mixture was concentrated and purified to obtain the free base of the title compound as a pale yellow oil (91 mg, 40%) after column chromatography (90:10:1: DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone | 0.460 mmol, 146 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O | C17H23N3O3
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 1.38 mmol, 306 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 6-({[((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one Dihydrochloride | 91 mg, 40% | Cl.Cl.O[C@H]1[C@H](CN(C1)CCN1C(C=CC2=CC=C(C=C12)OC)=O)CNCC=1C=CC=2SCC(NC2N1)=O | InChI=1S/C25H29N5O4S.2ClH/c1-34-19-5-2-16-3-7-24(33)30(20(16)10-19)9-8-29-13-17(21(31)14-29)11-26-12-18-4-6-22-25(27-18)28-23(32)15-35-22;;/h2-7,10,17,21,26,31H,8-9,11-15H2,1H3,(H,27,28,32);2*1H/t17-,21+;;/m0../s1
